data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3444,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1C[O+:1]([H:2])C(C2=CC=C([N+](=O)[O-])C=C2)O1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7275,"CO[C:1](C)=[OH+:2].[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,919,"C=CC1C=CCC(CC(C)C[C:1](C[Si](C)(C)C)=[CH2:2])O1.CC1=CCOC(C=CC(O[Si](C)(C)C(C)(C)C)C(CC=C[CH:3]=[O+:4][B-]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)OC(=O)C(C(OC(=O)C3=C(OC(C)C)C=CC=C3OC(C)C)C(=O)O)O2)O[Si](C)(C)C(C)(C)C)C1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8761,"CC(=O)[C:1](CCCCBr)([H:2])[C:3](C)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1041,"CC(=O)[O-:1].COC1=CC=C2C=CC3C=CC([O+:2](I4(OC(C)=O)(OC(C)=O)OC(=O)C5=C4C=CC=C5)[H:3])C4OC1=C2C34CCN(C)S(=O)(=O)C1=CC=C(C)C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3871,"CCC(C)C(C)(CC)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1951,"CC(=O)[O-].CC[NH+](CC)CC.COC1=CC(C2C(=O)[O:1][C:2](C)([O-:3])OC2C2=CC(O)=C(OC)C=C2)=CC(OC)=C1OC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9901,"CC(=O)C1=CC2=C(C=C1)C=C[CH:1]=[CH:2]2.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6557,"C[CH:1]=[NH2+:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7520,"CO[PH](OC)(N1C=NN=N1)[O+:1](C)[H:2].C[NH:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1211,"CCCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(CC)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2675,"C#CCOC(=O)C(C)(CO)C[O:1]C(C)(C)O.CO.O=S(=O)([O-])O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6362,"CC(=O)[O-:1].C[P+:2](O)(O)[O:3][CH3:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,1432,"Br[B:1](Br)Br.C[O:2]C1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CCN5CC2CC2)C=C1|(2, 1)"
train,pmechdb_split_0,0,6084,"CC(C)(C)OC(=O)NC(CCCNC(=O)OCC1=CC=CC=C1)C(=O)[O-].CC(C)CC([N+]#[C-:1])C(=O)OCC1=CC=CC=C1.CC(NC(=O)OCC1C2=CC=CC=C2C2=C1C=CC=C2)[CH:2]=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2904,"CC[NH2+:1][CH:2](C)[O:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6501,"CC1C2CCC(C(=O)[O-:1])C23CCC(C3)C1(C)C.CC1[C+]2CCC(C(=O)[O:2][H:3])C23CCC(C3)C1(C)C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1606,"CC1CCC[C+:1]2C=CC=C[C:2]12[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1892,"CCC1=C2SC([S-:1])=NC2=C(C)C=C1.CCCCCP(CC)(CCC)(SC1=NC2=C(S1)C(CC)=CC=C2C)[O+:2](C(C)C1=C(CC)C=C(C)C=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7208,"CCC1(C)[C:1](C)(CC)[Br+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3205,"CC(=O)[O:1][H:2].COC1=CC2=C(C=C1)C=C(C1([OH:3])CC=C(C3=CC=CC=C3)N1)C=C2.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4346,"C1=CC=[N:1]C=C1.COC1=CC(C[O+:2](C([O-])(Cl)CC(C)C)[H:3])=C(OC)C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2157,"CC[CH:1](C)[Br:2].N#C[CH-:3]C#N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2052,"COC1=C2OC3C(N=[N:1][H:2])CCC4(O)C5CC(=C2C34CCN5C2CCCCC2)C=C1.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7286,"C=C1CCC2CCCC3OC(C)(C)[O:1]C123.C[Si:2](C)(C)OS(=O)(=O)C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,7896,"CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O+:1](CC1=C(Br)C(OC)=C2C(=C1)C=C(OC)C=C2OC)[H:2].COC1=CC(OC)=C2C(=C1)C=C(OCC1=CC=CC=C1)C(C(=O)[O-:3])=C2OC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7942,"CC(=O)O.CCO.NCC[NH2:1].O=C(C1=CC=CC=C1)[C:2](C1=CC=CC=C1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,21,"CCCCO[Si](C)(C)C.CCCC[O][Ti-:1]([O]CCCC)([O]CCCC)([O]CCCC)[OH+:2]C(C=CC=CI)CC(C)=CC(=O)OC.[OH-]|((1, 2), 2)"
train,pmechdb_split_0,0,3759,"C=CC(=C)C(CC1(C)C(C)CCC2(C)C(COCC3=CC=C(OC)C=C3)=CCCC21)[OH+:1][B-:2]1(O)OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.[Na+].[OH-]|((2, 1), 1)"
train,pmechdb_split_0,0,8315,"CC(C)[CH:1]=[CH2:2].O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,854,"C[C+:1]=O.FC(F)(F)C1=C2C=C[CH:2]=[CH:3]C2=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,9579,"CN(C)[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,1172,"C[C+:1](C)CCC[C:2]1=[CH:3]C=CC=C1C#N.O.O=P([O-])(O)OP(=O)(O)O|((2, 3), 1)"
train,pmechdb_split_0,0,9455,"CCC(C)=[O:1].CCCC[B:2](CCCC)OS(=O)(=O)C(F)(F)F.CCN(C(C)C)C(C)C|(1, 2)"
train,pmechdb_split_0,0,6555,"CC[C:1](=[CH:2]CC1(C)CCCCC1=O)[O-:3].CC[O:4][H:5]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3349,"CCO[C:1]1([I:2])C=C[C-:3]([N+](=O)[O-])[CH:4]=[CH:5]1|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,803,"CC(=O)C1=CO[C:1](Br)([H:2])[CH+:3]1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2990,"CO.COC1=C([NH3+])C=CC(C(O)=[O:1])=C1.O=S(=O)(O)[O:2][H:3].O=S(=O)([O-])O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1028,"CC(=O)NCC(=O)[O:1][H:2].CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8867,"COC(=O)C1(C)C(SC)C(=O)N2CC[C:1]3=[CH:2][C:3](=[O+:4]C)C=C[C:5]3([H:6])C21.[OH2:7]|(7, 6);((6, 5), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7184,"CC1(C)C2CCC(O)(C2)[C:1]1=[CH2:2].O=C1CCC(=O)[N:3]1[Br:4]|((1, 2), 4);((4, 3), 3)"
